US07495007B2
Preparation of intermediate E/Z-6-chloro-3-[5-chloro-2-(2-methoxycarbonyl-2-methyl-propoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-3-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester (7 g, 16.7 mmol) in dichloromethane (20 mL) at r.t. was added di-tert-butyl-dicarbonate (5.4 g, 25 mmol), followed by the addition of 4-dimethylaminopyridine (0.2 g, 1.7 mmol). The reaction mixture was stirred for 2 h and washed with 0.1N hydrochloride, then the solvent was removed to give title compound (Yield: 8 g).

reactant | Z-3-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester | 16.7 mmol, 7 g | COC(C(COC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)(C)C)=O | C21H19Cl2NO4
reactant | di-tert-butyl-dicarbonate | 25 mmol, 5.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.7 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[5-chloro-2-(2-methoxycarbonyl-2-methyl-propoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 8 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC(C)(C)C(=O)OC)=O | C26H27Cl2NO6
